US04876261
900 mg of α-[[(2-methoxybenzylamino]methyl]-3,4-dimethoxybenzyl alcohol was dissolved in 7 ml of trifluoroacetic acid, and after adding thereto 0.21 ml of conc. sulfuric acid under ice cooling, the mixture was allowed to react for 60 minutes. The reaction solution was concentrated, and subjected to zzeotropic distillation 3 times, and after adding chloroform, the mixture was basified by addition of 28% aqueous ammonia. By a separating procedure, the chloroform layer was collected, washed with water, and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue obtained was recrystallized from ethyl acetate-n-hexane, giving 440 mg of 4-(3,4-dimethoxyphenyl)-8-methyl-1,2,3,4-tetrahydroisoquinoline, m.p. 86°-88° C.

reactant | [(2-methoxybenzylamino]methyl]-3,4-dimethoxybenzyl alcohol | 900 mg | COC1=C(CNCC(C2=CC(=C(C=C2)OC)OC)O)C=CC=C1 | C18H23NO4
reactant | sulfuric acid | 0.21 ml | S(O)(O)(=O)=O | H2O4S
reactant | trifluoroacetic acid | 7 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(3,4-dimethoxyphenyl)-8-methyl-1,2,3,4-tetrahydroisoquinoline | 440 mg | COC=1C=C(C=CC1OC)C1CNCC2=C(C=CC=C12)C | C18H21NO2
